US06987116B2
To a solution of 4-chlorothieno[2,3-b]pyridine-5-carbonitrile (1.2 g, 6.16 mmol) [Khan, M. A.; Guarconi, A. E., J. Heterocyclic Chem., 14, 807 (1977)] in 72 mL of tetrahydrofuran at −78° C. is added dropwise 2.0 M lithium diisopropylamide in heptane/tetrahydrofuran/ethylbenzene (3.7 mL, 7.40 mmol). After stirring for 35 minutes, a solution of iodine (1.9 g, 7.40 mmol) in 8 mL of tetrahydrofuran is added dropwise over 20 minutes. The reaction mixture is stirred at −78° C. for 4 hours, then 85 mL of dichloromethane and 20 mL of water are added. The mixture is allowed to warm to room temperature. The reaction mixture is partitioned between water and dichloromethane. The organic layer is washed with a solution of sodium thiosulfate, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue is purified by flash column chromatography eluting with dichloromethane to provide 1.0 g of 4-chloro-2-iodothieno[2,3-b]pyridine-5-carbonitrile as colorless crystals, mp 181-182° C.; 1H NMR (DMSO-d6) δ 8.00 (s, 1H), 8.88 (s, 1H); MS 320.8 (M+H)+.

reactant | 4-chlorothieno[2,3-b]pyridine-5-carbonitrile | 6.16 mmol, 1.2 g | ClC1=C2C(=NC=C1C#N)SC=C2 | C8H3ClN2S
reactant | lithium diisopropylamide | 2.0 M | C(C)(C)[N-]C(C)C.[Li+]
reactant | heptane tetrahydrofuran ethylbenzene | 7.40 mmol, 3.7 mL | CCCCCCC.O1CCCC1.C(C)C1=CC=CC=C1
reactant | iodine | 7.40 mmol, 1.9 g | II | I2
solvent | tetrahydrofuran | 72 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
solvent | dichloromethane | 85 mL | ClCCl | CH2Cl2
product | 4-chloro-2-iodothieno[2,3-b]pyridine-5-carbonitrile | 1.0 g | ClC1=C2C(=NC=C1C#N)SC(=C2)I | C8H2ClIN2S
